US05063208
(2S,3R,4S)-2-Amino-1-cyclohexyl-3,4-dihydroxy-6-methylheptane
(2S,3R,4S)-2-[(tert-Butyloxycarbonyl)amino]-1-cyclohexyl-3,4-dihydroxy-6-methylheptane (10.00 g, 29.11 mmol, Luly et al., J. Org. Chem. 1988, 53, 6109) was stirred for 1 h in 4M HCl/dioxane. The solvent was evaporated and the residue was dissolved in water which was washed with ether and then made basic with solid K2CO3. The mixture was saturated with solid NaCl and extracted into chloroform which was dried over Na2SO4 and evaporated to afford 7.09 g (100%) of a white solid, m.p. 110°-111° C.

reactant | (2S,3R,4S)-2-[(tert-Butyloxycarbonyl)amino]-1-cyclohexyl-3,4-dihydroxy-6-methylheptane | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@H]([C@H](CC(C)C)O)O | C19H37NO4
solvent | HCl dioxane | 4M | Cl.O1CCOCC1
product | (2S,3R,4S)-2-Amino-1-cyclohexyl-3,4-dihydroxy-6-methylheptane | 7.09 g, 100% | N[C@@H](CC1CCCCC1)[C@H]([C@H](CC(C)C)O)O | C14H29NO2
